US07709483B2
(b) 7-Fluoro-6-hydroxy-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxaline-6-carboxylic acid
A solution of 2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-2-oxiranecarboxylic acid (3.22 g, 0.012 mol) in 1,4-dioxane (210 mL) and water (90 mL) was treated with lithium hydroxide (584 mg, 0.024 mol) dropwise at RT. The reaction mixture was heated at 80° C. for 35 hours then cooled, quenched to pH 7 with a 2M solution of hydrochloric acid and then the solvent was evaporated. The residue was placed directly onto a 100 g silica gel column and chromatographed, eluting with a 0-50% methanol in dichloromethane gradient to afford the product as a yellow solid (7.07 g of a 3:1 mixture of product/starting material).

reactant | 2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-2-oxiranecarboxylic acid | 0.012 mol, 3.22 g | FC=1C(=C2N=C(C=NC2=CC1)OC)C1(OC1)C(=O)O | C12H9FN2O4
reactant | lithium hydroxide | 0.024 mol, 584 mg | [OH-].[Li+]
solvent | 1,4-dioxane | 210 mL | O1CCOCC1 | C4H8O2
solvent | water | 90 mL | O | H2O
product | 7-Fluoro-6-hydroxy-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxaline-6-carboxylic acid | FC1=C2C=3N(C(C=NC3C=C1)=O)CC2(C(=O)O)O | C11H7FN2O4
